US07888350B2
1-(3,7-Bis-dimethylamino-phenothiazin-10-yl)-ethanone
Synthesis using sodium borohydride/Hunig's base in one pot. To a 500 cm3 round bottom flask under an atmosphere of nitrogen was added methylthioninium chloride trihydrate (80.2 mmol, 30 g) and acetonitrile (150 cm3). Sodium borohydride (104 mmol, 3.94 g) was added in four equal portions over a 30 minute time period. The temperature of the mixture was maintained at 35° C. with a cold water bath and was stirred for 30 minutes. The yellow/green suspension had acetic anhydride (321 mmol, 32.75 g) and Hunig's base (diisopropylethylamine) (120 mmol, 15.55 g) added. The mixture was heated at 90° C. for 2 hours. The cooled mixture was then poured carefully into ice water (200 cm3) in ten equal portions while stirring to give a precipitate. The precipitate was stirred for 30 minutes before it was filtered, washed with water (3×50 cm3), and air dried for 30 minutes. The crude material was crystallised from hot ethanol (300 cm3) to yield the title compound (13.55 g, 52%) as a light grey solid. Mp 137° C.; vmax(KBr)/cm−1 2910 (CH), 2876 (CH), 2856 (CH), 2799 (CH), 1659 (C═O), 1596 (NO2), 1502 (NO2); δH (250 MHz; CDCl3) 2.16 (3H, s, CH3), 2.93 (12H, s, NCH3), 6.59-6.62 (2H, d, J 8.5, ArH), 6.69-6.71 (2H, d, J2.75, ArH), 7.08-7.47 (2H, brd s, ArH); δC (62.9 MHz; CDCl3) 170.3 (C═O), 148.9 (ArC), 127.2 (ArC), 127.1 (ArC), 127.0 (ArC), 110.9 (ArC), 110.7 (ArC), 40.7 (NCH3), 22.9 (CH3); m/z (ES) 284.2 (100%, [M-OAc]+), 328.1 (15%, [M+H]+), 350.1 (41%, [M+Na]+).

reactant | sodium borohydride Hunig's base | [BH4-].[Na+].CCN(C(C)C)C(C)C
reactant | methylthioninium chloride trihydrate | 80.2 mmol, 30 g | O.O.O.[Cl-].CC=1[SH+]C=CC=CC=CC1
reactant | Sodium borohydride | 104 mmol, 3.94 g | [BH4-].[Na+]
reactant | acetic anhydride | 321 mmol, 32.75 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Hunig's base | 120 mmol, 15.55 g | CCN(C(C)C)C(C)C | C8H19N
reactant | acetonitrile | 150 cm3 | C(C)#N | C2H3N
product | 1-(3,7-Bis-dimethylamino-phenothiazin-10-yl)-ethanone | 13.55 g, 52% | CN(C=1C=CC=2N(C3=CC=C(C=C3SC2C1)N(C)C)C(C)=O)C | C18H21N3OS
